US04550107
(S)-5-[[2-[(Diethylamino)methyl]-1-pyrrolidinyl]acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 31 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and (S)-(+)-2-[(diethylamino)methyl]pyrrolidine to give a colorless highly viscous oil, [α]D20 =-10.5° (ethanol).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | (S)-(+)-2-[(diethylamino)methyl]pyrrolidine | C(C)N(CC)C[C@H]1NCCC1 | C9H20N2
solvent | ethanol | C(C)O | C2H6O
product | (S)-5-[[2-[(Diethylamino)methyl]-1-pyrrolidinyl]acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C(C)N(CC)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C24H30N4O2
